US07291631B2
Using General Procedure B: To a stirred solution of 1-(4-methyl-pyridin-2-yl)-ethanone (Sundberg, R J et al. J. Am. Chem. Soc. 1969, 91, 658-668) and (4-amino-butyl)-carbamic acid tert-butyl ester in CH2Cl2 was added NaBH(OAc)3 to give {4-[1-(4-methyl-pyridin-2-yl)-ethylamino]-butyl}-carbamic acid tert-butyl ester as a colorless oil. 1H NMR (CDCl3) δ 1.35 (d, 3H, J=6.6 Hz), 1.42 (s, 9H), 1.46-1.49 (m, 4H), 1.80 (br, 1H), 2.34 (s, 3H), 2.40-2.51 (m, 2H), 3.06-3.09 (m, 2H), 3.78 (q, 1H, J=6.6 Hz), 4.89 (br, 1H), 6.96 (d, 1H, J=5.1 Hz), 7.08 (s, 1H), 8.39 (d, 1H, J=5.1 Hz).

reactant | 1-(4-methyl-pyridin-2-yl)-ethanone | CC1=CC(=NC=C1)C(C)=O | C8H9NO
reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {4-[1-(4-methyl-pyridin-2-yl)-ethylamino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNC(C)C1=NC=CC(=C1)C)=O | C17H29N3O2
